US06117881
1-Indan-5-yl-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for Intermediate 1 with tryptamine (1.28 g, 8.0 mmol), indan-5-carboxaldehyde (1.3 g, 1.1 equiv.) and TFA (1.2 mL, 2 equiv.) to give the title compound (0.36 g, 14%).

reactant | tryptamine | 8.0 mmol, 1.28 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | indan-5-carboxaldehyde | 1.3 g, 1.1 equiv. | C1CCC2=CC(=CC=C12)C=O | C10H10O
reactant | TFA | 1.2 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-Indan-5-yl-2,3,4,9-tetrahydro-1H-β-carboline | 0.36 g, 14% | C1CCC2=CC(=CC=C12)C1NCCC=2C3=CC=CC=C3NC12 | C20H20N2
